US06897231B2
B. 1-(5-(1H-1,2,4-Triazol-3-yl)(1H-indazol-3-yl))-3-(2-piperazinylethoxy)benzene
Triphenylphosphine (0.694 g, 2.65 mmol), tetrahydrofuran (2.12 mL), tert-butylcarboxypiperazinylethanol (0.610 g, 2.65 mmol) and diethylazodicarboxylate (0.418 mL) were added to 3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)]-1H-indazol-3-yl}phenol (0.400 g, 1.25 mmol). The mixture was stirred at ambient temperature for 21h and poured into aqueous 6N hydrochloric acid (30 mL). After stirring at ambient temperature for 4h, the mixture was extracted with ethyl acetate (3×). The aqueous fraction was added to aqueous 6N sodium hydroxide (30 mL) and the pH adjusted to 11. The solution was extracted with ethyl acetate (3×) and the organic fractions were combined and dried over anhydrous sodium sulfate, filtered and evaporated. The residue was stirred with trifluoracetic acid (3.0 mL) at ambient temperature for 70 min. Purification by preparative HPLC (5-70% acetonitrile/water) gave the title compound (0.132 g, 27% yield). ES-MS (m/z) 390 [M+1]+.

reactant | Triphenylphosphine | 2.65 mmol, 0.694 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | tert-butylcarboxypiperazinylethanol | 2.65 mmol, 0.610 g | C(C)(C)(C)CC(O)(N1CCNCC1)C(=O)O | C11H22N2O3
reactant | diethylazodicarboxylate | 0.418 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | 3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)]-1H-indazol-3-yl}phenol | 1.25 mmol, 0.400 g | O1C(CCCC1)N1N=C(C2=CC(=CC=C12)C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=1C=C(C=CC1)O | C39H33N5O2
reactant | hydrochloric acid | 6N, 30 mL | Cl | ClH
solvent | tetrahydrofuran | 2.12 mL | O1CCCC1 | C4H8O
product | 1-(5-(1H-1,2,4-Triazol-3-yl)(1H-indazol-3-yl))-3-(2-piperazinylethoxy)benzene | 0.132 g, 27% yield | N1N=C(N=C1)C=1C=C2C(=NNC2=CC1)C1=CC(=CC=C1)OCCN1CCNCC1 | C21H23N7O
